US09127003B2
Intermediate 24: 3-Methoxy-4-(methylamino)-5-nitrobenzoic acid
To a solution of methyl 3-methoxy-4-(methylamino)-5-nitrobenzoate (13.69 g, 57.0 mmol) in tetrahydrofuran (THF) (100 mL) and water (50.0 mL) was added a single portion of lithium hydroxide (4.09 g, 171 mmol). The resulting suspension was stirred for 19 hr at room temperature. The reaction was acidified with aq. 2N HCl (˜50 mL), until pH reached ˜4. The resultant suspension was filtered and the orange solid dried on the high vacuum line overnight to give the title compound as an orange solid (11.09 g).

reactant | methyl 3-methoxy-4-(methylamino)-5-nitrobenzoate | 57.0 mmol, 13.69 g | COC=1C=C(C(=O)OC)C=C(C1NC)[N+](=O)[O-] | C10H12N2O5
reactant | lithium hydroxide | 171 mmol, 4.09 g | [OH-].[Li+]
reactant | HCl | 2N, ˜50 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 50.0 mL | O | H2O
product | 3-Methoxy-4-(methylamino)-5-nitrobenzoic acid | 11.09 g | COC=1C=C(C(=O)O)C=C(C1NC)[N+](=O)[O-] | C9H10N2O5
